US07592365B2
0.074 cm3 (0.891 mmol) of ethyl isocyanate and 0.005 mg (0.040 mmol) of dimethylaminopyridine are added, at a temperature close to 25° C., to a solution of 0.2 g (0.81 mmol) of 2-amino-4-(4-nitrophenyl)-1H-pyrrole-3-carboxamide in 15 cm3 of tetrahydrofuran. After stirring for 16 hours at a temperature close to 60° C., the reaction medium is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is stirred in 100 cm3 of water and then extracted with three times 50 cm3 of ethyl acetate. The organic phase is dried over anhydrous magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is purified by flash chromatography [eluent: dichloromethane/methanol/acetonitrile (95/2.5/2.5 by volume)]. After concentrating the fractions under reduced pressure, 0.120 g of 4-(4-nitrophenyl)-2-(3-ethylureido)-1H-pyrrole-3-carboxamide is obtained in the form of a yellow powder. ES+: m/z=318 (MH+).

reactant | ethyl isocyanate | 0.891 mmol, 0.074 cm3 | C(C)N=C=O | C3H5NO
reactant | dimethylaminopyridine | 0.040 mmol, 0.005 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 2-amino-4-(4-nitrophenyl)-1H-pyrrole-3-carboxamide | 0.81 mmol, 0.2 g | NC=1NC=C(C1C(=O)N)C1=CC=C(C=C1)[N+](=O)[O-] | C11H10N4O3
solvent | tetrahydrofuran | 15 cm3 | O1CCCC1 | C4H8O
solvent | water | 100 cm3 | O | H2O
product | 4-(4-nitrophenyl)-2-(3-ethylureido)-1H-pyrrole-3-carboxamide | 0.120 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1C(=C(NC1)NC(=O)NCC)C(=O)N | C14H15N5O4
